US07329678B2
2-amino-5-(4-methoxyphenyl)nicotinaldehyde (61.6 mg, 0.27 mmol), 3,4-diaminobenzene-1-sulphonamide (59.7 mg, 0.32 mmol), and NaHSO3 (29.2 mg, 0.4 mmol) were suspended in 3 ml dimethylacetamide. The reaction mixture was heated to 200° C. for 10 min in the SmithSynthesizer™ microwave instrument. Upon cooling, 5 ml of 4:1H2O/EtOAc was added to afford a slurry which was stirred for 1 h. The solids were collected via vacuum filtration, washed with water and then diethyl ether, and dried under vacuum for 15 hours to yield 2-[2-amino-5-(4-methoxyphenyl)pyridin-3-yl]-1H-benzimidazole-6-sulfonamide (16 mg).

reactant | 2-amino-5-(4-methoxyphenyl)nicotinaldehyde | 0.27 mmol, 61.6 mg | NC1=C(C=O)C=C(C=N1)C1=CC=C(C=C1)OC | C13H12N2O2
reactant | 3,4-diaminobenzene-1-sulphonamide | 0.32 mmol, 59.7 mg | NC=1C=C(C=CC1N)S(=O)(=O)N | C6H9N3O2S
reactant | NaHSO3 | 0.4 mmol, 29.2 mg | OS(=O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | 2-[2-amino-5-(4-methoxyphenyl)pyridin-3-yl]-1H-benzimidazole-6-sulfonamide | 16 mg | NC1=NC=C(C=C1C1=NC2=C(N1)C=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)OC | C19H17N5O3S
